US05654307
A solution of 6-chloro-3-nitropicolinamide (0.30 g, 1.49 mmol) in EtOAc (30 mL) is hydrogenated at 60 psi over 5% Pd-C (0.10 g) for 20 min. After removal of the catalyst by filtration the solution is concentrated to dryness to give 3-amino-6-chloropicolinamide as a yellow oil, which is used directly in the next step. It is dissolved in triethylorthoformate (30 mL) and the mixture is heated under reflux for 18 h. Petroleum ether (30 mL) is added to the cooled solution, and the resulting precipitate of crude 6-chloro-3H-pyrido[3,2-d)pyrimidin-4-one (0.27 g, 99%) is filtered off and dried in a vacuum oven.

reactant | 6-chloro-3-nitropicolinamide | 1.49 mmol, 0.30 g | ClC1=CC=C(C(=N1)C(=O)N)[N+](=O)[O-] | C6H4ClN3O3
solvent | EtOAc | 30 mL | CCOC(=O)C | C4H8O2
catalyst | Pd-C | 0.10 g | [Pd] | Pd
product | 3-amino-6-chloropicolinamide | NC=1C(=NC(=CC1)Cl)C(=O)N | C6H6ClN3O
